US06974870B2
Trifluoromethanesulfonic acid 3-amino-2-carbamoyl-4-methylsulfanyl-thieno[2,3-b]pyridin-6-yl ester (500 mg, 1.29 mmol) was dissolved in MeOH (10 mL), chilled to 0° C., and potassium peroxymonosulfate (950 mg, 1.55 mmol) dissolved in water (15 mL) was added. The mixture was stirred for 18 h after which it was filtered to give the desired trifluoromethanesulfonic acid 3-amino-2-carbamoyl-4-methanesulfinyl-thieno[2,3-b]pyridin-6-yl ester in 86% yield.

reactant | Trifluoromethanesulfonic acid 3-amino-2-carbamoyl-4-methylsulfanyl-thieno[2,3-b]pyridin-6-yl ester | 1.29 mmol, 500 mg | NC1=C(SC2=NC(=CC(=C21)SC)OS(=O)(=O)C(F)(F)F)C(N)=O | C10H8F3N3O4S3
reactant | potassium peroxymonosulfate | 1.55 mmol, 950 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | trifluoromethanesulfonic acid 3-amino-2-carbamoyl-4-methanesulfinyl-thieno[2,3-b]pyridin-6-yl ester | 86% yield | NC1=C(SC2=NC(=CC(=C21)S(=O)C)OS(=O)(=O)C(F)(F)F)C(N)=O | C10H8F3N3O5S3
